US05070089
i) 3,4-Dimethoxybenzyl chloride
In a nitrogen atmosphere, 5 g (29.73 mmol.) of 3,4-dimethoxybenzyl alcohol was dissolved in 25 ml of dichloromethane. The obtained solution was placed in an ice-bath, and to this was dropwise added a solution of 2.16 ml (29.74 mmol.) of thionyl chloride in 5 ml of methylene chloride. The mixture was then stirred at room temperature for 1 hour. The mixture was placed under reduced pressure at room temperature to distill off the solvent to give 5.624 g of the desired compound as a yellow oil.

reactant | 3,4-dimethoxybenzyl alcohol | 29.73 mmol, 5 g | COC=1C=C(CO)C=CC1OC | C9H12O3
reactant | thionyl chloride | 29.74 mmol, 2.16 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dimethoxybenzyl chloride | 5.624 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
